US08609848B2
32. 5-(7-Methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-4,4-dimethyl-2-{1-[(3-methylphenyl)sulfonyl]piperidin-4-yl}-2,4-dihydro-3H-pyrazol-3-one
The title compound is prepared analogously as described for GP1 using 5-(7-methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-4,4-dimethyl-2-(piperidin-4-yl)-2,4-dihydro-3H-pyrazol-3-one (compound B12) and 3-methylbenzenesulfonyl chloride as starting compounds. The crude product is purified by chromatography (amino phase silica gel and DCM) and crystallization of the product containing fractions from DCM and diethyl ether to yield the title compound.

reactant | 5-(7-methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-4,4-dimethyl-2-(piperidin-4-yl)-2,4-dihydro-3H-pyrazol-3-one | COC1=CC(=CC=2CC(OC21)(C)C)C=2C(C(N(N2)C2CCNCC2)=O)(C)C | C21H29N3O3
reactant | 3-methylbenzenesulfonyl chloride | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
product | 5-(7-Methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-4,4-dimethyl-2-{1-[(3-methylphenyl)sulfonyl]piperidin-4-yl}-2,4-dihydro-3H-pyrazol-3-one | COC1=CC(=CC=2CC(OC21)(C)C)C=2C(C(N(N2)C2CCN(CC2)S(=O)(=O)C2=CC(=CC=C2)C)=O)(C)C | C28H35N3O5S
